US07064215B2
4-(1-methyl-3-piperidyloxy)phenylamine (1 equivalent) was dissolved in CH2Cl2 and a catalytic amount of DMAP was added. Acetic anhydride (1.3 equivalents) was added slowly, and the solution was stirred at room temperature overnight. The reaction was then quenched with water and the aqueous layer was extracted with CH2Cl2 (3×). The combined organic extracts were dried over Na2SO4 and concentrated in vacuo, to yield N-[4-(1-methyl-3-piperidyloxy)phenyl]acetamide as a yellow oil. LC/MS (m/z) 249.3 (MH+), Rt 1.24 minutes.

reactant | 4-(1-methyl-3-piperidyloxy)phenylamine | 1 equivalent | CN1CC(CCC1)OC1=CC=C(C=C1)N | C12H18N2O
reactant | Acetic anhydride | 1.3 equivalents | C(C)(=O)OC(C)=O | C4H6O3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-[4-(1-methyl-3-piperidyloxy)phenyl]acetamide | CN1CC(CCC1)OC1=CC=C(C=C1)NC(C)=O | C14H20N2O2
